US09029536B2
E) 3-[5-(Benzyloxy)pyridin-2-yl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine
A mixture of K2CO3 (212 mg, 1.53 mmol), 3-[5-(benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine (232 mg) in DMF (3 mL) was added EtI (0.064 mL), and stirred at room temperature overnight. The mixture was added to saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was separated, washed with brine and dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (224 mg).

reactant | K2CO3 | 1.53 mmol, 212 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-[5-(benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine | 232 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NNC=2C1=NC=CC2 | C18H14N4O
reactant | EtI | 0.064 mL | C(C)I | C2H5I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[5-(Benzyloxy)pyridin-2-yl]-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 224 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NN(C=2C1=NC=CC2)CC | C20H18N4O
